US08754229B2
Ozone was bubbled through a solution of methyl 4-[bis(tert-butoxycarbonyl)amino]6-ethenyl-3-methoxypyridine-2-carboxylate (0.382 g, 0.935 mmol) in CH2Cl2 (9.35 ml) at −78° C. until the solution turned blue. Oxygen was bubbled through the reaction mixture until the solution turned yellow and triphenylphosphine (0.294 g, 1.122 mmol) was added. The reaction mixture was allowed to warm to room temperature and was stirred overnight. The reaction mixture was then adsorbed onto celite and the residue was purified by flash column chromatography (ISCO, SiO2 24 g, hexanes/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-[bis(tert-butoxycarbonyl)amino]-6-formyl-3-methoxypyridine-2-carboxylate (279 mg, 0.680 mmol, 72.7% yield) as a light yellow oil. ESIMS m/z 411 ([M−H]+); 1H NMR (400 MHz, CDCl3) δ 10.03 (s, 1H), 7.88 (s, 1H), 4.05 (s, 3H), 3.95 (s, 3H), 1.43 (s, 18H).

reactant | Ozone | O=[O+][O-] | O3
reactant | methyl 4-[bis(tert-butoxycarbonyl)amino]6-ethenyl-3-methoxypyridine-2-carboxylate | 0.935 mmol, 0.382 g | C(C)(C)(C)OC(=O)N(C1=C(C(=NC(=C1)C=C)C(=O)OC)OC)C(=O)OC(C)(C)C | C20H28N2O7
reactant | triphenylphosphine | 1.122 mmol, 0.294 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 9.35 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[bis(tert-butoxycarbonyl)amino]-6-formyl-3-methoxypyridine-2-carboxylate | 0.680 mmol, 279 mg, 72.7% yield | C(C)(C)(C)OC(=O)N(C1=C(C(=NC(=C1)C=O)C(=O)OC)OC)C(=O)OC(C)(C)C | C19H26N2O8
